US07211694B2
50.0 g of 8-dimethylamino-1,4-dioxa-spiro[4.5]decane-8-carbonitrile were dissolved in 400 ml of analytical grade tetrahydrofuran; 216 ml of a commercially available two molar solution of phenylmagnesium chloride in tetrahydrofuran were added dropwise under a nitrogen atmosphere, while cooling with an ice bath, and stirring was carried out overnight at room temperature. For working up, 200 ml of ice-cold ammonium chloride solution (20 wt. %) were added with stirring, while cooling with an ice bath, and after 30 minutes the phases were separated. The aqueous phase was extracted twice using 250 ml of ether each time, and the extracts were combined with the organic phase, washed with 200 ml of water followed by 200 ml of saturated sodium chloride solution, dried over sodium sulfate, filtered and concentrated. 60.0 g of dimethyl-(8-phenyl-1,4-dioxa-spiro[4.5]dec-8-yl)-amine were obtained.

reactant | 8-dimethylamino-1,4-dioxa-spiro[4.5]decane-8-carbonitrile | 50.0 g | CN(C1(CCC2(OCCO2)CC1)C#N)C | C11H18N2O2
reactant | phenylmagnesium chloride | C1(=CC=CC=C1)[Mg]Cl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | dimethyl-(8-phenyl-1,4-dioxa-spiro[4.5]dec-8-yl)-amine | 60.0 g | CN(C1(CCC2(OCCO2)CC1)C1=CC=CC=C1)C | C16H23NO2
